US04990510
2,3-dimethyl-9-bromo-6-(N,N-dimethylaminoethyl)-6H-indolo-(2,3-b)quinoxalin
To a suspension of 5.38 g sodium hydride (0.22 mole) in 600 ml dry dimethylsulphoxide maintained at 35° C. 32.6 g 2,3-dimethyl-9-bromo-6H-indolo(2,3-b)quinoxaline (0.10 mol) is added under nitrogen and with good stirring. 30 minutes after completed addition 15.9 g N,N-dimethylamino-2-chloroethane-HCl (0.11 mole) are added at 35° C. The mixture is stirred at 35° C. for four hours and then the solvent is distilled off in vacuum at room temperature. The residue is dissolved after soaking out with water in methylacetate and slowly cooled to -30° C. whereby the base crystallizes out. Yield 22 g, 55%, mp. 146°-147° C.

reactant | sodium hydride | 0.22 mole, 5.38 g | [H-].[Na+]
reactant | 2,3-dimethyl-9-bromo-6H-indolo(2,3-b)quinoxaline | 0.10 mol, 32.6 g | CC=1C=C2N=C3C(=NC2=CC1C)NC=1C=CC(=CC13)Br | C16H12BrN3
reactant | N,N-dimethylamino-2-chloroethane-HCl | 0.11 mole, 15.9 g | Cl.CN(C)CCCl
solvent | dimethylsulphoxide | 600 ml | CS(=O)C | C2H6OS
product | 2,3-dimethyl-9-bromo-6-(N,N-dimethylaminoethyl)-6H-indolo-(2,3-b)quinoxalin | CC=1C=C2N=C3C(=NC2=CC1C)N(C=1C=CC(=CC13)Br)CCN(C)C | C20H21BrN4
